US05187037
Example 1: Preparation of 2-(N,N-Dimethylamino)ethyl Benzoate
A solution of 70.29 grams (0.50 mol) of benzoyl chloride in 500 milliters of methylene chloride was added to a solution of 44.57 grams (0.50 mol) of 2-dimethylaminoethanol, 20.0 grams (0.50 mol) of sodium hydroxideand 500 milliters of water over 15 minutes with rapid stirring. Stirring was continued for 3.25 hours after which the organic layer was separated, washed with water, dried over MgSO4 and concentrated. Distillation of the residue gave 59.5 grams of product; bp=102°-108° C./0.50 min.

reactant | benzoyl chloride | 0.50 mol, 70.29 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2-dimethylaminoethanol | 0.50 mol, 44.57 grams | CN(CCO)C | C4H11NO
reactant | sodium | 0.50 mol, 20.0 grams | [Na] | Na
solvent | water | O | H2O
product | 2-(N,N-Dimethylamino)ethyl Benzoate | 59.5 grams | C(C1=CC=CC=C1)(=O)OCCN(C)C | C11H15NO2
